US08168651B2
Benzo[c][2,6]naphthyridin-5(6H)-one (1.0 eq, 813 mg, 4.15 mmol) was stirred in phosphorus oxychloride (5.0 eq, 2 ml, 21.84 mmol) and acetonitrile (10 ml). The mixture was stirred at reflux for 5 hours. The mixture was poured on ice, and the resulting solid filtered and dried. 5-chlorobenzo[c][2,6]naphthyridine was isolated as a grey solid (459 mg, 52% yield). LCMS (ES): 95% pure, m/z 215 [M+1]+.

reactant | Benzo[c][2,6]naphthyridin-5(6H)-one | 4.15 mmol, 813 mg, 1.0 eq | C1=C2C3=C(NC(C2=CC=N1)=O)C=CC=C3 | C12H8N2O
reactant | phosphorus oxychloride | 21.84 mmol, 2 ml, 5.0 eq | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 5-chlorobenzo[c][2,6]naphthyridine | ClC1=NC2=C(C3=CN=CC=C13)C=CC=C2 | C12H7ClN2
